US07601714B2
3-Aminomethylpyridine (2.5 g, 23 mmol), di-tert-butyl dicarbonate (7.72 g, 35.4 mmol) and diisopropylethyl amine (6.2 mL, 35.4 mmole) were combined in CH2Cl2 (50 mL). The reaction was allowed to stir for 18 h. The reaction was worked up by removal of the solvent in vacuo. The resultant residue was dissolved in EtOAc and poured into 10% aqueous NaHCO3. The aqueous phase was separated and extracted two more times with EtOAc. The organic layers were combined, dried (Na2SO4), decanted and the concentrated. The crude was purified via flash chromatography (SiO2, 2-5% MeOH—CH2Cl2) to afford 3.9 g (81%) of pyridin-3-ylmethyl-carbamic acid tert-butyl ester.

reactant | 3-Aminomethylpyridine | 23 mmol, 2.5 g | NCC=1C=NC=CC1 | C6H8N2
reactant | di-tert-butyl dicarbonate | 35.4 mmol, 7.72 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | diisopropylethyl amine | 35.4 mmole, 6.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | pyridin-3-ylmethyl-carbamic acid tert-butyl ester | 3.9 g, 81% | C(C)(C)(C)OC(NCC=1C=NC=CC1)=O | C11H16N2O2
